US08293758B2
(±)-4-Dimethylamino-2-methyl-4-phenylcyclohexanone
Diisopropylamine (2.1 ml, 15 mmol) was provided in dry THF in argon and mixed with n-butyl lithium in hexane (2.5M, 6 ml, 15 mmol) at 30° C. The reaction mixture was cooled to −78° C. 4-(dimethylamino)-4-phenylcyclohexanone (2.17 g, 10 mmol), dissolved in 10 ml of dry THF, was added in drops to this solution within 10 min. The batch was stirred for 30 min at −78° C. and then mixed with methyl iodide (1.86 ml, 30 mmol). It was heated to RT and stirred for a further 18 h. The solvent was removed at the rotary evaporator and the residue taken up in DCM. Extraction was conducted with 1N HCl (3×30 ml). The aqueous phase was basified with 5N NaOH (20 ml) and extracted with DCM (3×30 ml). The combined organic phases were washed with H2O (2×10 ml) and dried over Na2SO4. The semisolid residue (1.2 g) obtained after removal of the solvent was recrystallised from ethyl acetate (1 ml).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 15 mmol, 2.5M, 6 ml | CCCCCC | C6H14
reactant | 4-(dimethylamino)-4-phenylcyclohexanone | 10 mmol, 2.17 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | methyl iodide | 30 mmol, 1.86 ml | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (±)-4-Dimethylamino-2-methyl-4-phenylcyclohexanone | 1.2 g | CN(C1(CC(C(CC1)=O)C)C1=CC=CC=C1)C | C15H21NO
